### PR TITLE
[Merged by Bors] - feat: some measure preserving equivalences on pi-types

### PR DESCRIPTION
**Pull request by fpvandoorn**
* Also fix the statement of some lemmas of an earlier PR.
* From the Sobolev project
* There are more that depend on #7341 

Co-authored-by: Heather Macbeth 25316162+hrmacbeth@users.noreply.github.com

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/MeasurableSpace/Basic.lean [hunk 1]
```diff
@@ -1615,7 +1615,7 @@ def piCongrLeft (f : δ ≃ δ') : (∀ b, π (f b)) ≃ᵐ ∀ a, π a := by
   exact fun i => measurable_pi_apply (f i)
 
 theorem piCongrLeft_eq (f : δ ≃ δ') :
-    MeasurableEquiv.piCongrLeft π f = f.piCongrLeft π := by rfl
+    ⇑MeasurableEquiv.piCongrLeft π f = f.piCongrLeft π := by rfl
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/MeasurableSpace/Basic.lean:1618]: Is this a stylistic thing, or was this somehow broken by the changes above?

Comment (fpvandoorn) [reply Mathlib/MeasureTheory/MeasurableSpace/Basic.lean:1618]: The lemmas were equalities of `Equiv _ _`, but I want them to be equalities of functions. This was a mistake in the old version.
The coercion from `MeasurableEquiv` to `Equiv` (in the old LHS) just doesn't show up often, but the coercion to functions does.

File: Mathlib/MeasureTheory/MeasurableSpace/Basic.lean [hunk 2]
```diff
@@ -1615,7 +1615,7 @@ def piCongrLeft (f : δ ≃ δ') : (∀ b, π (f b)) ≃ᵐ ∀ a, π a := by
   exact fun i => measurable_pi_apply (f i)
 
 theorem piCongrLeft_eq (f : δ ≃ δ') :
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/MeasurableSpace/Basic.lean:1617]:
```suggestion
theorem coe_piCongrLeft (f : δ ≃ δ') :
```
to match the lemmas below

File: Mathlib/MeasureTheory/Constructions/Pi.lean [hunk 3]
```diff
@@ -743,12 +744,53 @@ theorem measurePreserving_piEquivPiSubtypeProd {ι : Type u} {α : ι → Type v
...
+    refine' (pi_eq fun s _ => _).symm
+    rw [MeasurableEquiv.map_apply, MeasurableEquiv.piCongrLeft_eq f,
+      Equiv.piCongrLeft_preimage_univ_pi, pi_pi _ _, f.prod_comp (fun i => μ i (s i))]
+
+theorem volume_measurePreserving_piCongrLeft (α : ι → Type*) (f : ι' ≃ ι)
+    [∀ i, MeasureSpace (α i)] [∀ i, SigmaFinite (volume : Measure (α i))] :
+    MeasurePreserving (MeasurableEquiv.piCongrLeft α f) volume volume :=
+  measurePreserving_piCongrLeft (fun _ ↦ volume) f
+
+theorem measurePreserving_sumPiEquivProdPi_symm {π : ι ⊕ ι' → Type _} [∀ i, MeasurableSpace (π i)]
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Constructions/Pi.lean:767]:
```suggestion
theorem measurePreserving_sumPiEquivProdPi_symm {π : ι ⊕ ι' → Type*} [∀ i, MeasurableSpace (π i)]
```
and similarly throughout; unless this doesn't work?

File: Mathlib/MeasureTheory/Constructions/Pi.lean [hunk 4]
```diff
@@ -743,12 +744,53 @@ theorem measurePreserving_piEquivPiSubtypeProd {ι : Type u} {α : ι → Type v
...
 
-theorem volume_preserving_piEquivPiSubtypeProd {ι : Type*} (α : ι → Type*) [Fintype ι]
+theorem volume_preserving_piEquivPiSubtypeProd (α : ι → Type*)
     [∀ i, MeasureSpace (α i)] [∀ i, SigmaFinite (volume : Measure (α i))] (p : ι → Prop)
     [DecidablePred p] : MeasurePreserving (MeasurableEquiv.piEquivPiSubtypeProd α p) :=
   measurePreserving_piEquivPiSubtypeProd (fun _ => volume) p
 #align measure_theory.volume_preserving_pi_equiv_pi_subtype_prod MeasureTheory.volume_preserving_piEquivPiSubtypeProd
 
+theorem measurePreserving_piCongrLeft (f : ι' ≃ ι) :
+    MeasurePreserving (MeasurableEquiv.piCongrLeft α f)
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Constructions/Pi.lean:754]: Out of scope for this PR, since you're following the existing pattern, but... Shouldn't this be stated in the less-bundled way as:
```suggestion
    MeasurePreserving (Equiv.piCongrLeft α f)
```

**Review by eric-wieser — APPROVED** [review]
bors d+

File: Mathlib/MeasureTheory/Constructions/Pi.lean (hunk 4 above)
Comment (fpvandoorn) [reply Mathlib/MeasureTheory/Constructions/Pi.lean:754]: I'm not sure. I want to use both the `MeasurableEquiv` and `MeasurePreserving` parts at the same time when applying this theorem:
https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Integral/Lebesgue.html#MeasureTheory.MeasurePreserving.lintegral_map_equiv

That is easier to apply if this is formulated using `MeasurableEquiv`.

**Comment by fpvandoorn** [comment]
bors merge
